US07989462B2
(3,4-Dimethoxy-phenyl)-(2-methyl-6-nitro-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methyl-6-nitro-quinazoline (80 mg, 0.36 mmol), 3,4-dimethoxy-aniline (54.8 mg, 0.36 mmol) and sodium acetate (35.2 mg, 0.43 mmol) similar to example 20 to give 109 mg (89.5%) of yellow solids. 1H NMR (CDCl3): 8.87 (d, J=2.7 Hz, 1H), 8.56 (dd, J=2.4 Hz, J=9.0 Hz, 1H), 7.91 (d, J=9.0 Hz, 1H), 7.63-7.61 (m, 2H), 7.28-7.24 (m, 1H), 6.94 (d, J=8.7 Hz, 1H), 3.96 (s, 3H)), 3.93 (s, 3H), 2.71 (s, 3H).

reactant | 4-chloro-2-methyl-6-nitro-quinazoline | 0.36 mmol, 80 mg | ClC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])C | C9H6ClN3O2
reactant | 3,4-dimethoxy-aniline | 0.36 mmol, 54.8 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | sodium acetate | 0.43 mmol, 35.2 mg | C(C)(=O)[O-].[Na+]
product | (3,4-Dimethoxy-phenyl)-(2-methyl-6-nitro-quinazolin-4-yl)-amine | COC=1C=C(C=CC1OC)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])C | C17H16N4O4
